data/mechanisms/records/IMS8-EQ8.5d.json
{"mechanism_id": "IMS8-EQ8.5d", "species": [{"species_id": "butyl_vinyl_ether_radical_cation", "mapped_smiles": "[CH2:3][CH:2]=[O+:1][CH2:4][CH:5]([1H:9])[CH2:6][CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acetaldehyde_radical_cation", "mapped_smiles": "[1H:9][CH2:3][CH:2]=[O+:1]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "but_1_ene_neutral", "mapped_smiles": "[CH2:4]=[CH:5][CH2:6][CH3:7]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["butyl_vinyl_ether_radical_cation"]}, {"state_id": "state_products", "species_ids": ["acetaldehyde_radical_cation", "but_1_ene_neutral"]}], "steps": [{"step_id": "step_mclafferty_alpha_alpha", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 9]}, "target": {"type": "bond", "atom_maps": [3, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 9]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [5]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_mclafferty_alpha_alpha", "support_type": "textbook_proposed", "locator": {"page": 142, "equation": "8.5", "figure": null, "panel": null, "section": "8 / Detailed Mechanisms of Ion Fragmentation"}, "confidence": 0.8, "curator_note": "Eq 8.5, lower scheme, alpha-alpha channel (arrow labelled 'aa'). Radical-driven McLafferty-type rearrangement of the n-butyl vinyl ether molecular ion: the terminal-vinyl odd electron abstracts the gamma-H, the resulting C-radical drives C-O cleavage, and the C2H4O acetaldehyde fragment retains charge+radical (keto acetaldehyde, IE=10.2 eV printed; higher IE than butene so only 20%). Book draws 4 fishhook arcs (terminal-C gamma-H abstraction; C4=C5 pi formation; C-O cleavage); moves 1,4,6 correspond to those, moves 2,3,5 are the implicit partner homolysis/pairing hooks (not drawn). Precursor written as the distonic oxa-allyl resonance form .CH2-CH=O(+)- (odd electron on the terminal carbon as drawn); acetaldehyde radical cation localized with +. on oxygen. m/z curator-computed; 20% printed. [RECHECK 2026-07-24: arc count corrected 3->4 per a zoomed re-read; the gamma-H abstraction is drawn as TWO barbs (O-radical->H and the gamma C-H bond electron->O-H), not one.]"}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_44", "species_id": "acetaldehyde_radical_cation", "step_id": "step_mclafferty_alpha_alpha", "observed_mz": 44.0257, "relative_intensity": 0.2, "hydrogen_shift": 1, "isotope_offset": 0, "status": "observed", "confidence": 0.75}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
